US08110593B2
A solution of t-butyllithium in pentane (1.7M, 5.7 ml, 9.84 mmol) was added in portions to a solution of 2,4,6-trimethylphenylbromide (0.744 ml, 980 mg, 4.93 mmol) in 8 ml THF at ca −78° C. A white precipitate was formed. After 10 minutes at low temperature a solution of 2-(2,3-dimethyl-phenoxymethyl)-4,5-dihydro-imidazole-1-carboxylic acid tert-butyl ester (1 g, 3.28 mmol) in 6 ml THF was added in portions to give an orange solution. This was warmed to −20° C. and cooled again to ca −70° C. whereupon much of the solid went into solution. Allyl bromide (0.332 ml, 475 mg, 3.93 mmol) was added and the reaction mixture stirred for 30 min at this temperature before a small amount of acetic acid was added. The mixture was warmed and shaken between EtOAc and water. The organic phase was dried with Na2SO4 and evaporated to give 1.3 g of crude product, which was chromatographed on silica to yield 2-[1-(2,3-dimethyl-phenoxy)-but-3-enyl]-4,5-dihydro-imidazole-1-carboxylic acid tert-butyl ester. 1H-NMR (CDCl3) (selection) 5.10 (d, allyl), 5.18 (d, allyl), 5.66 (t, OCH), 5.98 (m, allyl)

reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 9.84 mmol, 1.7M, 5.7 ml | CCCCC | C5H12
reactant | 2,4,6-trimethylphenylbromide | 4.93 mmol, 0.744 ml, 980 mg | CC1=C(C(=CC(=C1)C)C)Br | C9H11Br
reactant | 2-(2,3-dimethyl-phenoxymethyl)-4,5-dihydro-imidazole-1-carboxylic acid tert-butyl ester | 3.28 mmol, 1 g | C(C)(C)(C)OC(=O)N1C(=NCC1)COC1=C(C(=CC=C1)C)C | C17H24N2O3
reactant | Allyl bromide | 3.93 mmol, 0.332 ml, 475 mg | C(C=C)Br | C3H5Br
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-[1-(2,3-dimethyl-phenoxy)-but-3-enyl]-4,5-dihydro-imidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=NCC1)C(CC=C)OC1=C(C(=CC=C1)C)C | C20H28N2O3
